US06495576B2
N-[1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethylpropyl]benzamide
A suspension of benzamide, pivaldehyde, benzotriazole, and p-toluenesulfonic acid was processed as in Example 1C to provide the title compound.

reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | pivaldehyde | CC(C)(C)C=O | C5H10O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethylpropyl]benzamide | N1(N=NC2=C1C=CC=C2)C(C(C)(C)C)NC(C2=CC=CC=C2)=O | C18H20N4O
